US07202367B2
Preparation of 1-(4-imidazol-1-yl-phenyl)-1H-pyrazole
Operating protocol B (82° C., 48 hours) was followed using 117 mg of Chxn-Py-Al (0.4 mmoles), 535 mg of 1-(4′-bromophenyl)-1H-imidazole (2.4 mmoles), 136 mg of pyrazole (2 mmoles) and 1.2 ml of acetonitrile.

reactant | 1-(4′-bromophenyl)-1H-imidazole | 2.4 mmoles, 535 mg | BrC1=CC=C(C=C1)N1C=NC=C1 | C9H7BrN2
reactant | pyrazole | 2 mmoles, 136 mg | N1N=CC=C1 | C3H4N2
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
product | 1-(4-imidazol-1-yl-phenyl)-1H-pyrazole | N1(C=NC=C1)C1=CC=C(C=C1)N1N=CC=C1 | C12H10N4
